**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Aluminum Polymer Capacitors
* Matchcode:             WCAP-PHLE
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/1/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt PHLE_875035019001_100uF 1 2
Rser 1 3 0.00322698316842
Lser 2 4 0.000000001
C1 3 4 0.0001
Rpar 3 4 100000
.ends PHLE_875035019001_100uF
*******
.subckt PHLE_875035019002_180uF 1 2
Rser 1 3 0.00300279178798
Lser 2 4 9.62318879E-10
C1 3 4 0.00018
Rpar 3 4 55555.5555555556
.ends PHLE_875035019002_180uF
*******
.subckt PHLE_875035019003_220uF 1 2
Rser 1 3 0.00279317658931
Lser 2 4 0.00000000061
C1 3 4 0.00022
Rpar 3 4 45454.5454545455
.ends PHLE_875035019003_220uF
*******
.subckt PHLE_875035119002_180uF 1 2
Rser 1 3 0.00329530627296
Lser 2 4 0.00000000069
C1 3 4 0.00018
Rpar 3 4 55555.5555555556
.ends PHLE_875035119002_180uF
*******
.subckt PHLE_875036219012_330uF 1 2
Rser 1 3 0.00209989667908
Lser 2 4 0.00000000051
C1 3 4 0.00033
Rpar 3 4 30303.0303030303
.ends PHLE_875036219012_330uF
*******
.subckt PHLE_875036219015_390uF 1 2
Rser 1 3 0.00183566489457
Lser 2 4 0.000000000455
C1 3 4 0.00039
Rpar 3 4 25641.0256410256
.ends PHLE_875036219015_390uF
*******
.subckt PHLE_875036219018_470uF 1 2
Rser 1 3 0.00168707059863
Lser 2 4 0.00000000054
C1 3 4 0.00047
Rpar 3 4 21276.5957446809
.ends PHLE_875036219018_470uF
*******
.subckt PHLE_875036219019_560uF 1 2
Rser 1 3 0.00145988723831
Lser 2 4 0.00000000054
C1 3 4 0.00056
Rpar 3 4 17857.1428571429
.ends PHLE_875036219019_560uF
*******
.subckt PHLE_875036319012_330uF 1 2
Rser 1 3 0.00263945475023
Lser 2 4 6.29088842E-10
C1 3 4 0.00033
Rpar 3 4 30303.0303030303
.ends PHLE_875036319012_330uF
*******
.subckt PHLE_875036319015_390uF 1 2
Rser 1 3 0.00211571037399
Lser 2 4 0.00000000058
C1 3 4 0.00039
Rpar 3 4 25641.0256410256
.ends PHLE_875036319015_390uF
*******
.subckt PHLE_875036319018_470uF 1 2
Rser 1 3 0.00181199872393
Lser 2 4 0.00000000054
C1 3 4 0.00047
Rpar 3 4 21276.5957446809
.ends PHLE_875036319018_470uF
*******
